US07084158B2
1-[3-(3-Fluorophenyl)-2-propynyl]-4-methylpiperidine
A mixture of 3-fluoroiodobenzene (8.88 g), 4-methyl-1-(2-propynyl)piperidine (6.80 g), palladium acetate (0.045 g), tri-o-toloylphosphine (0.24 g) and copper(I) iodide (0.1 g) in dry diethylamine (50 ml) was heated under reflux for 5 hours. The solvent was removed under reduced pressure and the residue was taken up in diethyl ether and washed with water. The organic phase was dried over magnesium sulfate and the solvent was removed under reduced pressure. Distillation of the residue under reduced pressure gave an oil (5.20 g) of boiling point 105° C./0.07 mm Hg.

reactant | 3-fluoroiodobenzene | 8.88 g | FC=1C=C(C=CC1)I | C6H4FI
reactant | 4-methyl-1-(2-propynyl)piperidine | 6.80 g | CC1CCN(CC1)CC#C | C9H15N
solvent | diethylamine | 50 ml | C(C)NCC | C4H11N
catalyst | palladium acetate | 0.045 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | copper(I) iodide | 0.1 g | [Cu]I
catalyst | tri-o-toloylphosphine | 0.24 g | C=1(C(=CC=CC1)C(=O)P(C(=O)C=1C(=CC=CC1)C)C(=O)C=1C(=CC=CC1)C)C | C24H21O3P
product | 1-[3-(3-Fluorophenyl)-2-propynyl]-4-methylpiperidine | 5.20 g | FC=1C=C(C=CC1)C#CCN1CCC(CC1)C | C15H18FN
